US05449686
4-Cyano-4-(3-cyclopropylmethoxy-4-difluoromethoxyphenyl)cyclohexan-1-one
A mixture of 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexan-1-one (0.5 g, 1.27 mmol), dimethyl sulfoxide (10 mL), water (1 mL) and sodium chloride (0.5 g) under an argon atmosphere was heated at 145°-150° C. for 4.5 h. The reaction mixture was cooled to room temperature and concentrated. The residue was partitioned between ethyl acetate and water, extracted twice with ethyl acetate,the organic layer was washed twice with water and once with brine, was dried (sodium sulfate) and the solvent was removed in vacuo. The product was purified by flash chromatography, eluting with 20-25% ethyl acetate/hexanes,and the resultant solid was triturated with ether/hexane and then with cold ether to provide a solid (0.22 g, 51.6%): m.p. 85.5-86.5° C.

reactant | 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexan-1-one | 1.27 mmol, 0.5 g | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC(F)F)OC1CCCC1)C#N)=O | C21H23F2NO5
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | sodium chloride | 0.5 g | [Cl-].[Na+]
solvent | water | 1 mL | O | H2O
product | 4-Cyano-4-(3-cyclopropylmethoxy-4-difluoromethoxyphenyl)cyclohexan-1-one | 0.22 g, 51.6% | C(#N)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C18H19F2NO3
